US08349790B2
1.4 Preparation of 2-carboethoxy-3,5,7-trimethyl-2-octenenitrile (VI)
A 250 ml round-bottom flask equipped with a Dean-Stark apparatus is charged in succession with 25.6 g of 4,6-dimethylheptanone (0.18 mol), 14.34 g of ethyl cyanoacetate (0.127 mol), 1.95 g of ammonium acetate, 6 g of acetic acid, and 100 ml of methylcyclohexane. The mixture is heated to reflux, the water formed being separated off as it is formed. After one hour, the mixture is cooled to ambient temperature and then washed to neutrality with saturated sodium bicarbonate solution. The residue is distilled under vacuum (6 torr) for recovery of the excess ketone (6.5 g) and then under a high vacuum for isolation of the cyano ester VI. 25.8 g of a colorless liquid are collected (b.p.=100-104° C./2.10−1 torr), corresponding to a yield of 85%.

reactant | 4,6-dimethylheptanone | 0.18 mol, 25.6 g | CC(CC(C)=O)CC(C)C | C9H18O
reactant | ethyl cyanoacetate | 0.127 mol, 14.34 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | ammonium acetate | 1.95 g | C(C)(=O)[O-].[NH4+]
reactant | methylcyclohexane | 100 ml | CC1CCCCC1 | C7H14
solvent | water | O | H2O
solvent | acetic acid | 6 g | C(C)(=O)O | C2H4O2
product | 2-carboethoxy-3,5,7-trimethyl-2-octenenitrile | yield of 85% | C(=O)(OCC)C(C#N)=C(CC(CC(C)C)C)C | C14H23NO2
